US05157041
1.62 g of tert.butyl 2-benzyloxycarbonyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide were dissolved in 10 ml of a 45% solution of hydrogen bromide in acetic acid. After 30 minutes the solution was evaporated and the residue was taken up in water. After filtration the filtrate was washed three times with diethyl ether and then neutralized by the addition of saturated aqueous sodium bicarbonate solution. The product was extracted from the now turbid aqueous layer with ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulphate and evaporated to give 0.84 g of tert.butyl 1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide as a white crystalline solid of melting point 144° C.

reactant | tert.butyl 2-benzyloxycarbonyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide | 1.62 g | C(C)(C)(C)C1(N(CCC2=C1NC1=CC=CC=C21)C(=O)OCC2=CC=CC=C2)C(=O)N | C24H27N3O3
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | tert.butyl 1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide | 0.84 g | C(C)(C)(C)C1(NCCC2=C1NC1=CC=CC=C21)C(=O)N | C16H21N3O
